US07423158B2
A solution of 5-(3-bromophenyl)pentan-1-ol (0.63 g, 2.6 mmol) in methylene chloride at −78° C. was treated with a solution of diethylamino sulfur trifluoride (DAST) (0.7 mL, 5.2 mmol) in methylene chloride, allowed to warm to room temperature, stirred for 0.5 h at room temperature, poured into water and extracted with ether. The extracts were combined washed sequentially with saturated sodium bicarbonate and water, dried over magnesium sulfate and concentrated under reduced pressure. The concentrate was purified by flash chromatography on silica gel, 40:1 hexane/ethyl acetate as eluent to give 1-bromo-3-(5-fluoropentyl)benzene as a pale yellow oil, 0.4 g (63% yield); 1H NMR (DMSO-d6) δ 1.3 (m, 2H); 1.6 (m, 4H); 2.5 (t, 2 H); 4.4 (dxt, 2H); 7.2 (m, 2 H); 7.4 (m, 2 H); MS [(+)ESI] m/z=245 [M−H]+.

reactant | 5-(3-bromophenyl)pentan-1-ol | 2.6 mmol, 0.63 g | BrC=1C=C(C=CC1)CCCCCO | C11H15BrO
reactant | diethylamino sulfur trifluoride | 5.2 mmol, 0.7 mL | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-bromo-3-(5-fluoropentyl)benzene | 63% yield | BrC1=CC(=CC=C1)CCCCCF | C11H14BrF
